US08580794B2
spiro[2.5]octan-5-one
To a solution of 3-ethoxycyclohex-2-enone (48.1 mL) in ether (1000 mL) was added titanium(IV) isopropoxide (110 mL) followed by addition of ethylmagnesium bromide (357 mL) at ambient temperature. The reaction mixture was stirred for 2 hours at ambient temperature and was then quenched with water (500 mL). The organic layer was separated (decanted) and the water layer was extracted with ether (3×300 mL). The combined extracts were partially concentrated to approximately 300 mL. p-Toluenesulfonic acid monohydrate (3.0 g) was added and the reaction mixture was stirred overnight at ambient temperature. The reaction mixture was then washed with saturated aqueous NaHCO3 solution, dried (MgSO4), filtered and concentrated. The concentrate was purified by fractional distillation (1st fraction b.p. 27° C. at 23 torr (not product), 2nd fraction (product) b.p. 75° C. at 8 torr).

reactant | 3-ethoxycyclohex-2-enone | 48.1 mL | C(C)OC1=CC(CCC1)=O | C8H12O2
reactant | ethylmagnesium bromide | 357 mL | C(C)[Mg]Br
solvent | ether | 1000 mL | CCOCC | C4H10O
catalyst | titanium(IV) isopropoxide | 110 mL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | spiro[2.5]octan-5-one | C1CC12CC(CCC2)=O | C8H12O
